US03971819
A. 4-(2methoxyethylamino)-3-nitro-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (4.2 g), 2-methoxyethylamine (5.6 g), and 50% ethanol (10 ml) was heated to 60°C for 1 hour. The ethanol was distilled off under reduced pressure, and the resulting 4-(2-methoxyethylamino)-3-nitro-5-sulphamyl-benzoic acid was precipitated by addition of 4N hydrochloric acid until pH 2. After recrystallization from water, the melting point was 192°-194°C. The compound crystallized with 1 molecule of water of crystallization.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 4.2 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | 2-methoxyethylamine | 5.6 g | COCCN | C3H9NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(2methoxyethylamino)-3-nitro-5-sulphamyl-benzoic acid | COCCNC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C10H13N3O7S
